US05620979
Preparation of 5-Amino-6,7-dibromo-1,4-dihydro-2,3-quinoxalinedione
To a stirred mixture of 5-nitro-6,7-dibromo-1,4-dihydro-2,3-quinoxalinedione (327 mg, 0.89 mMol) in ethanol (10 mL) was added SnCl2.2H2O (1.0 g, 4.45 mMol) in one portion. The mixture was refluxed at 80° C. (oil bath 90° C.) with stirring for 4 h. The mixture was then cooled to room temperature and the yellow precipitate was collected by filtration, followed by washing with cold ethanol (2×1 mL), to get 227 mg (76%) of crude title product (contains minor impurities by NMR). Crystallization from DMSO/H2O gave 193 mg of pure title product as bright yellow needles; mp: 324°-6° C. (dec.), changed color from 270° C. IR (KBr, cm-1): 3456; 3281; 1700; 1643. NMR (1H, DMSO-d6): d 5.844 (s, 2H); 6.732 (s, 1H); 11.257 (s, 1H); 11.810 (s, 1H). Purity: >96.96% by HPLC. HRMS: calcd for C8H8N3O2Br2 (M+) m/z 332.8747; found: 332.8754. Potency relative to DCK: 341%.

reactant | 5-nitro-6,7-dibromo-1,4-dihydro-2,3-quinoxalinedione | 0.89 mMol, 327 mg | [N+](=O)([O-])C1=C2NC(C(NC2=CC(=C1Br)Br)=O)=O | C8H3Br2N3O4
reactant | SnCl2.2H2O | 4.45 mMol, 1.0 g | O.O.Cl[Sn]Cl
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-Amino-6,7-dibromo-1,4-dihydro-2,3-quinoxalinedione | 193 mg | NC1=C2NC(C(NC2=CC(=C1Br)Br)=O)=O | C8H5Br2N3O2
